US08426604B2
5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-thiazol-4-one was prepared from 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one and Methyl-(1-methyl-pyrrolidin-3-yl)-amine following General Procedure C.

reactant | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SCC)=O)C=CC(=C1)C(F)(F)F)(F)F | C22H15F6N3OS2
reactant | Methyl-(1-methyl-pyrrolidin-3-yl)-amine | CNC1CN(CC1)C | C6H14N2
product | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-thiazol-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C2CN(CC2)C)C)=O)C=CC(=C1)C(F)(F)F)(F)F | C26H23F6N5OS
